US08119661B2
Step D. The preparation of Ethyl 3-[4-[(3aR,7aR)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-1-yl]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate (mixture of diastereomers)
Following the procedure used in step G of the example 8 and starting with (3aR,7aR)-1-[1-(3-methylpyrrolidin-3-yl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one (160 mg, 0.522 mmol) and ethyl chloroformate (85 mg, 0.783 mmol), the title compound was obtained as a gum (120 mg). 1H NMR (Methanol-D4) δ 4.60 (brs, 1H), 4.13-4.08 (q, 2H), 3.74-3.51 (m, 4H), 3.43-3.34 (m, 2H), 3.20 (br d, 1H), 3.04-2.90 (m, 3H), 2.73 (br s, 1H), 2.4-2.31 (m, 3H), 1.98-1.60 (br m, 8H), 1.43 (m, 3H), 1.25 (t, 3H), 1.10 (s, 3H). MS (M+1): 379.34.

reactant | (3aR,7aR)-1-[1-(3-methylpyrrolidin-3-yl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one | 0.522 mmol, 160 mg | CC1(CNCC1)N1CCC(CC1)N1C(N[C@H]2[C@H]1CCCC2)=O | C17H30N4O
reactant | ethyl chloroformate | 0.783 mmol, 85 mg | ClC(=O)OCC | C3H5ClO2
product | Ethyl 3-[4-[(3aR,7aR)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-1-yl]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate | O=C1N[C@H]2[C@H](N1C1CCN(CC1)C1(CN(CC1)C(=O)OCC)C)CCCC2 | C20H34N4O3
